US04791199
acylating α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide with acetic anhydride to form 1-acetyl-α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide;

reactant | α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide | CC(C)N(CCC(C(=O)N)(C1NCCCC1)C1=CC=CC=C1)C(C)C | C21H35N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide | C(C)(=O)N1C(CCCC1)C(C(=O)N)(C1=CC=CC=C1)CCN(C(C)C)C(C)C | C23H37N3O2
